US09212160B2
A 500 mL flask was charged with the sodium salt of 1-chloro-4-hydroxy-9H-thioxanthen-9-one (28.5 g; 0.100 mol), 1-bromo-3-chloropropane (17.4 g; 0.111 mol) and isopropyl alcohol (280 mL). The turbid reaction mixture was refluxed for 24 h. The hot solution was diluted with isopropyl alcohol (130 mL), drowned out in water (1400 mL) and the resulting suspension was extracted with dichloromethane (3×250 mL). The organic phase was separated, dried (MgSO4), filtered and solvent removed in vacuo to give 1-chloro-4-(3-chloropropoxy)-9H-thioxanthen-9-one (24.4 g; 72% yield).

reactant | sodium | [Na] | Na
reactant | 1-chloro-4-hydroxy-9H-thioxanthen-9-one | 0.100 mol, 28.5 g | ClC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7ClO2S
reactant | 1-bromo-3-chloropropane | 0.111 mol, 17.4 g | BrCCCCl | C3H6BrCl
solvent | isopropyl alcohol | 130 mL | C(C)(C)O | C3H8O
solvent | water | 1400 mL | O | H2O
solvent | isopropyl alcohol | 280 mL | C(C)(C)O | C3H8O
product | 1-chloro-4-(3-chloropropoxy)-9H-thioxanthen-9-one | 24.4 g, 72% yield | ClC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)OCCCCl | C16H12Cl2O2S
